US04677129
(a) 1-(4-aminophenyl)-5-methyl-3-azabicyclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 12a, 3.7 g of 5-methyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione in 80 ml of 2-methoxyethanol are hydrogenated in the presence of 0.4 g of 5% palladium-on-carbon and worked up. Melting point 216° (from ethanol).

reactant | 5-methyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | 3.7 g | CC12C(NC(C(C1)(C2)C2=CC=C(C=C2)[N+](=O)[O-])=O)=O | C13H12N2O4
reactant | ethanol | C(C)O | C2H6O
solvent | 2-methoxyethanol | 80 ml | COCCO | C3H8O2
catalyst | palladium-on-carbon | 0.4 g | [Pd] | Pd
product | 1-(4-aminophenyl)-5-methyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(NC(C(C1)(C2)C)=O)=O | C13H14N2O2
